Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vaginal bleeding, urinary retention 
 
Major Surgical or Invasive Procedure:
none

 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, non-tender 
Ext: no tenderness to palpation
 
Pertinent Results:
Labs on Admission:

___ 10:03PM BLOOD WBC-7.4 RBC-3.34* Hgb-9.5* Hct-29.4* 
MCV-88 MCH-28.4 MCHC-32.3 RDW-11.7 RDWSD-37.5 Plt ___
___ 10:03PM BLOOD Neuts-66.3 ___ Monos-7.0 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.89 AbsLymp-1.74 AbsMono-0.52 
AbsEos-0.14 AbsBaso-0.04
___ 10:03PM BLOOD Glucose-105* UreaN-14 Creat-0.6 Na-145 
K-3.4* Cl-106 HCO3-27 AnGap-12

___ 05:50AM BLOOD WBC-5.9 RBC-3.14* Hgb-8.9* Hct-27.8* 
MCV-89 MCH-28.3 MCHC-32.0 RDW-11.9 RDWSD-37.9 Plt ___
___ 09:18AM BLOOD WBC-6.7 RBC-3.24* Hgb-9.1* Hct-28.6* 
MCV-88 MCH-28.1 MCHC-31.8* RDW-11.8 RDWSD-38.0 Plt ___
___ 12:28PM BLOOD Neuts-90.0* Lymphs-6.6* Monos-2.2* 
Eos-0.3* 
___ 12:28PM BLOOD WBC-6.0 RBC-1.52* Hgb-4.3* Hct-14.2* 
MCV-93 MCH-28.3 MCHC-30.3* RDW-11.9 RDWSD-40.4 Plt ___
___ 02:28PM BLOOD WBC-11.6* RBC-3.51* Hgb-10.4* Hct-31.7* 
MCV-90 MCH-29.6 MCHC-32.8 RDW-12.2 RDWSD-39.3 Plt ___
___ 09:18AM BLOOD ___ PTT-23.2* ___
___ 09:18AM BLOOD Albumin-3.5 Calcium-8.2* Phos-3.6 Mg-2.4

Relevant Labs:

___ 06:31AM BLOOD WBC-8.7 RBC-3.43* Hgb-9.8* Hct-30.3* 
MCV-88 MCH-28.6 MCHC-32.3 RDW-12.0 RDWSD-38.6 Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
abnormal uterine bleeding, vasovagal syncope, acute blood loss 
anemia, and vasovagal syncope. In the ED on ___, her HCT was 
27.8. Later that evening in the ED, patient had a vasovagal 
episode. EKG was within normal limits. She was continued to be 
monitored on telemetry. Her HCT was found to be 14.2. She 
started to receive a blood transfusion and her HCT was rechecked 
and found to be 31.4. She thus received only one unit of packed 
red blood cells. Her HCT was trended and remained stable for the 
duration of her admission. She had a transvaginal ultrasound 
showed 2.4cm vascularized stripe and new 6.8 likely dermoid 
cyst. She also had a CT abdomen/pelvis that showed small amount 
of free fluid without hemoperitoneum, and markedly distended 
bladder. ACS was consulted and said there was no evidence for 
intra-abdominal process requiring surgical intervention. Foley 
was placed for >1000cc concerning for urinary retention. U/A was 
equivocal. Patient received IV ceftriaxone in the ED for concern 
for UTI. She was started on a 10-day Provera 30mg as well as PO 
iron and colace. 

On HD#3, her urine output was adequate and her Foley was removed 
with a voiding trial, the results of which are as follows:
1. Instilled 300 mL, voided and missed the collection hat with 
16 mL residual.
2. Voided 300mL with 0mL residual.

By post-operative day #3, her bleeding was improved and she was 
clinically and hemodynamically stable. She was then discharged 
home in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
do not take if having loose stools  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
2.  Ferrous Sulfate 325 mg PO BID 
please take with stool softener 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*1 
3.  MedroxyPROGESTERone Acetate 30 mg PO DAILY 
RX *medroxyprogesterone 10 mg 3 tablet(s) by mouth daily Disp 
#*18 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for vaginal bleeding 
and urinary retention. You have recovered well and the team 
believes you are ready to be discharged home. You were started 
on a medication called Provera to help your bleeding. Please 
continue to take this medication for a total of 10 days. Please 
call Dr. ___ office with any questions or concerns. 
Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___